US04146715
A mixture of 2-azido-9-(2-hydroxyethoxymethyl)adenine (0.41g) and 10% palladium on charcoal (80mg) in ethanol (41ml) was shaken under hydrogen at 50 psi for 3.5 hours. The catalyst was removed by filtration through a celite pad and washed thoroughly with ethanol and water. The solvent was removed by evaporation under reduced pressure giving a quantitative yield (0.37g) of nearly pure (one spot on TLC) 2-amino-9-(2-hydroxyethoxymethyl)adenine, m.p. 183°-184° C. after recrystallization from n-propanol.

reactant | 2-azido-9-(2-hydroxyethoxymethyl)adenine | 0.41g | N(=[N+]=[N-])C1=NC(=C2N=CN(C2=N1)COCCO)N | C8H10N8O2
catalyst | palladium on charcoal | 80mg | [Pd] | Pd
solvent | ethanol | 41ml | C(C)O | C2H6O
product | 2-amino-9-(2-hydroxyethoxymethyl)adenine | quantitative yield | NC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H12N6O2
